US05493030
A solution of 4-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene (0.91 g) in trimethyl orthopropionate (25 ml) and propionic acid (0.08 ml) was heated to 110° C. for 2.5 hours. The solvents were evaporated under vacuum to afford methyl (E) 6-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate as an oil.

reactant | 4-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-hydroxy-2-methylbut-1-ene | 0.91 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC(C(=C)C)O)OC)C)=O | C21H32O5Si
solvent | trimethyl orthopropionate | 25 ml | C(CC)(OC)(OC)OC | C6H14O3
solvent | propionic acid | 0.08 ml | C(CC)(=O)O | C3H6O2
product | methyl (E) 6-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2,4-dimethyl-4-hexenoate | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C/C=C(/CC(C(=O)OC)C)\C)OC)C)=O | C25H38O6Si
